US08486934B2
2-(5,6-dihydro-4H-[1,2,4]oxadiazin-3-yl)-6-methylphenylamine
3 g (13.6 mmol) of 3-(3-methyl-2-nitrophenyl)-5,6-dihydro-4H-[1,2,4]oxadiazine are dissolved in 40 ml of ethanol, and 0.3 g of Pd/C (5%) is added. The mixture is then stirred at 21° C. under a hydrogen pressure of 3 bar for 72 h. The reaction mixture is then filtered and the ethanol is distilled off under reduced pressure.

reactant | 3-(3-methyl-2-nitrophenyl)-5,6-dihydro-4H-[1,2,4]oxadiazine | 13.6 mmol, 3 g | CC=1C(=C(C=CC1)C1=NOCCN1)[N+](=O)[O-] | C10H11N3O3
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.3 g | [Pd] | Pd
product | 2-(5,6-dihydro-4H-[1,2,4]oxadiazin-3-yl)-6-methylphenylamine | O1N=C(NCC1)C1=C(C(=CC=C1)C)N | C10H13N3O
